US07863271B2
To a solution of methyl 2-chlorobenzoxazole-4-carboxylate (210 mg, 0.99 mmol) in NMP (5 mL) was added 4-methoxypiperidine (230 mg, 1.98 mmol) in NMP (5 mL) at room temperature. NaH was added to the mixture in two portions in 5 min. The mixture was stirred at room temperature for 18 h. The reaction was quenched by adding 10 mL of CH3OH followed by concentration to dryness. The crude material was purified by column chromatography (silica gel, 50% EtOAc in hexane) to afford methyl 2-(4-methoxypiperidin-1-yl)benzoxazole-4-carboxylate (146 mg, 50%) as a yellow solid. MS consistent.

reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 0.99 mmol, 210 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
reactant | 4-methoxypiperidine | 1.98 mmol, 230 mg | COC1CCNCC1 | C6H13NO
reactant | NaH | [H-].[Na+]
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | methyl 2-(4-methoxypiperidin-1-yl)benzoxazole-4-carboxylate | 146 mg, 50% | COC1CCN(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C15H18N2O4
